US06890940B2
Under argon, tri-t-butylphosphine (5.0 mL, 20 mmol), sodium t-butoxide (10.78 g, 112 mmol), 2-benzyloxy-5-bromopyridine [J. Am. Chem. Soc., 71, 70-73 (1949).] (29.20 g, 110 mmol) and a solution of N,N′-dimethylethylenediamine (4.40 g, 50.0 mmol) in o-xylene (30 mL) were added to a solution of bis(dibenzylideneacetone)palladium (2.86 g, 5.00 mmol) in o-xylene (80 mL). After stirring at 120° C. for 3 hours, water was added, and the resulting mixture was extracted with chloroform. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to afford N,N′-bis(2-benzyloxy-5-pyridyl)-N,N′-dimethylethylenediamine as a pale yellow crystalline powder (melting point: 95.0-97.0° C.) (18.59 g, yield: 81%).

reactant | tri-t-butylphosphine | 20 mmol, 5.0 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 112 mmol, 10.78 g | CC(C)([O-])C.[Na+]
reactant | 2-benzyloxy-5-bromopyridine | 110 mmol, 29.20 g | C(C1=CC=CC=C1)OC1=NC=C(C=C1)Br | C12H10BrNO
reactant | N,N′-dimethylethylenediamine | 50.0 mmol, 4.40 g | CNCCNC | C4H12N2
reactant | water | O | H2O
solvent | o-xylene | 30 mL | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 80 mL | CC=1C=CC=CC1C | C8H10
catalyst | bis(dibenzylideneacetone)palladium | 5.00 mmol, 2.86 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N,N′-bis(2-benzyloxy-5-pyridyl)-N,N′-dimethylethylenediamine | 18.59 g, yield: 81% | C(C1=CC=CC=C1)OC1=NC=C(C=C1)N(CCN(C)C=1C=CC(=NC1)OCC1=CC=CC=C1)C | C28H30N4O2
